US05567670
Preparation of 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione
To a solution of 2.80 g (8.90 mmol) of 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione in 50 mL of acetone was added 1.47 g (10.7 mmol) of potassium carbonate and 1.98 mL (17.8 mmol) of an 80% solution of propargyl bromide in toluene. It was then warmed to reflux for 2 h. It was cooled to room temperature and the mixture was filtered and washed with excess ethyl acetate. The crude product was flash chromatographed over silica gel, eluting with a 3:7 v:v mixture of ethyl acetate and hexane to give 3.1 g of the title compound as a pale yellow solid, m.p.: 61°-65° C.; 1 -NMR (CDCl3, 200 MHz) ppm 7.0 (d, 1H), 4.75 (m, 2H), 3.45 (s, 3H), 3.1 (s, 6H), 2.6 (m, 1H).

reactant | 3-[4-chloro-2-fluoro-5-(hydroxy)phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione | 8.90 mmol, 2.80 g | ClC1=CC(=C(C=C1O)N1C(N(C(=NC1=O)N(C)C)C)=O)F | C12H12ClFN4O3
reactant | potassium carbonate | 10.7 mmol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | C(C#C)Br | C3H3Br
solvent | acetone | 50 mL | CC(=O)C | C3H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[4-chloro-2-fluoro-5-[(2-propynyl)-oxy]phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione | 3.1 g | ClC1=CC(=C(C=C1OCC#C)N1C(N(C(=NC1=O)N(C)C)C)=O)F | C15H14ClFN4O3
